US07223766B2
To a suspension of 4-[2-(5-chloro-2-fluorophenyl)-6,7-dihydrofuro[3,2-d]pyrimidin-4-ylamino]-nicotinic acid ethyl ester (100 mg, 0.24 mmol, 1 eq) in MeOH (5 ml) was added a 1N NaOH(aq) solution (290 μl, 0.29 mmol, 1.2 eq) and the reaction mixture was refluxed for 5 h. The solution was cooled to rt and concentrated in vacuo. Water (20 ml) was added to the crude material and the aqueous layer was acidified to pH 4. The solid was filtered, washed with water (2×5 ml) and dried overnight to afford 4-[2-(5-chloro-2-fluorophenyl)-6,7-dihydrofuro[3,2-d]pyrimidin-4-ylamino]-nicotinic acid (88 mg, 94%) as a cream colored solid.

reactant | 4-[2-(5-chloro-2-fluorophenyl)-6,7-dihydrofuro[3,2-d]pyrimidin-4-ylamino]-nicotinic acid ethyl ester | 0.24 mmol, 100 mg, 1 eq | C(C)OC(C1=CN=CC=C1NC=1C2=C(N=C(N1)C1=C(C=CC(=C1)Cl)F)CCO2)=O | C20H16ClFN4O3
reactant | NaOH | 1N | [OH-].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
product | 4-[2-(5-chloro-2-fluorophenyl)-6,7-dihydrofuro[3,2-d]pyrimidin-4-ylamino]-nicotinic acid | 88 mg, 94% | ClC=1C=CC(=C(C1)C=1N=C(C2=C(N1)CCO2)NC2=CC=NC=C2C(=O)O)F | C18H12ClFN4O3
